US05317023
Ethyl 2-ethyl-7-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate
Hydrogen peroxide (30% w/w in water; 14 ml) was added dropwise to stirred and cooled (-10° C.) ethyl pyruvate (22 ml). This mixture and a solution of iron (II) sulphate heptahydrate (37.5 g) in water (45 ml) were added simultaneously, dropwise into a stirred and cooled (-10° C.) solution of 2-ethyl-7-methyl-3H-imidazo[4,5-b]pyridine (7.1 g) in water (23 ml) and concentrated sulphuric acid (7.5 ml). The mixture was then poured onto ice and trisodium citrate dihydrate (40 g) was added. The mixture was neutralised with solid sodium bicarbonate and partitioned between chloroform (×3) and water. The organic phases were combined, dried and evaporated. Column chromatography eluting with 10% methanol in ether gave a brown solid which was triturated with ether to give the title compound as a pale yellow solid (1.9 g), m.p. 151°-153° C.

reactant | Hydrogen peroxide | 14 ml | OO | H2O2
reactant | ethyl pyruvate | 22 ml | C(C(=O)C)(=O)OCC | C5H8O3
reactant | 2-ethyl-7-methyl-3H-imidazo[4,5-b]pyridine | 7.1 g | C(C)C1=NC=2C(=NC=CC2C)N1 | C9H11N3
reactant | trisodium citrate dihydrate | 40 g | O.O.C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].[Na+].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 45 ml | O | H2O
solvent | water | 23 ml | O | H2O
solvent | sulphuric acid | 7.5 ml | S(O)(O)(=O)=O | H2O4S
catalyst | iron (II) sulphate heptahydrate | 37.5 g | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Fe+2]
product | Ethyl 2-ethyl-7-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 1.9 g | C(C)C1=NC=2C(=NC(=CC2C)C(=O)OCC)N1 | C12H15N3O2
